### ISSUE TITLE
simp unfolding let even with zeta := false option

### ISSUE THREAD

**Issue by PatrickMassot** [leanprover/lean4#2669]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

Note this issue may be related to  #2281, I am not sure.

### Description

`simp (config :={zeta := false})` sometimes unfold let values.

### Context

This is a regression compared to Lean 3 that complicates porting the sphere eversion project for instance. It was discussed [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/simp.20unfolding.20let.20bindings/near/391576668).

### Steps to Reproduce

```lean
def f : Nat → Nat := fun x ↦ x - x

@[simp]
theorem f_zero (n : Nat) : f n = 0 := Nat.sub_self n

example (n : Nat) : False := by
  let g := f n
  have : g + n = n := by 
    simp (config := {zeta := false}) [Nat.zero_add]
  sorry
```

**Expected behavior:** 

The simp should fail. In Lean 3 the `dsimp` line below is needed.

```lean
-- Lean 3 code
def f : nat → nat := fun x, x - x

@[simp]
lemma f_zero (n : ℕ) : f n = 0 := nat.sub_self n

example (n : nat) : false :=
begin
  let g := f n,
  have : g + n = n,
  { -- dsimp only [g],
    simp [nat.zero_add] },
  sorry
end
```

**Actual behavior:**

Lean 4 happily closes the goal. Of course in my example this looks like a feature, but in actual examples it prevents `simp` from closing the goal, by sending it to a dead end.

### Versions

Lean (version 4.2.0-rc1, commit https://github.com/leanprover/lean4/commit/a62d2fd4979671b76b8ab13ccbe4fdf410ec0d9d, Release)
Ubuntu 22.04

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
